US07807686B2
To a suspension of (S)-(+)-2-[6-(3-hydroxy-2-methylpropoxy)-2-(3-methoxyphenyl)-4-oxo-4H-quinazolin-3-yl]-N-isopropylacetamide (0.96 g, 2.18 mmol) in dichloromethane (100 mL) cooled to −78° C. under argon was added methanesulfonyl chloride (2.50 g, 1.7 mL, 21.90 mmol) dropwise over 5 min, followed by dropwise addition (10 min) of triethylamine (2.21 g, 3.10 mL, 21.9 mmol). The reaction mixture was warmed to −30° C. over 60 min followed by warming to room temperature over 15 min after which time the reaction was found to be complete (HPLC monitoring). The reaction mixture was diluted with ethyl acetate (300 mL), poured into ice water (100 mL) and the organic phase washed with 1N HCl (aq.) (2×200 mL), sat. NaHCO3 (aq.) (1×200 mL) and brine (1×200 mL). The organic phase was dried (MgSO4) and concentrated in vacuo to afford (R)-(−)-methanesulfonic acid 3-[3-(isopropylcarbamoylmethyl)-2-(3-methoxyphenyl)-4-oxo-3,4-dihydroquinazolin-6-yloxy]-2-methylpropyl ester as a pale yellow solid (1.13 g, 2.18 mmol, 100%, 91% purity by LC-MS).

reactant | (S)-(+)-2-[6-(3-hydroxy-2-methylpropoxy)-2-(3-methoxyphenyl)-4-oxo-4H-quinazolin-3-yl]-N-isopropylacetamide | 2.18 mmol, 0.96 g | OC[C@@H](COC=1C=C2C(N(C(=NC2=CC1)C1=CC(=CC=C1)OC)CC(=O)NC(C)C)=O)C | C24H29N3O5
reactant | methanesulfonyl chloride | 21.90 mmol, 1.7 mL, 2.50 g | CS(=O)(=O)Cl | CH3ClO2S
reactant | triethylamine | 21.9 mmol, 3.10 mL, 2.21 g | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | 100 mL | ClCCl | CH2Cl2
solvent | ethyl acetate | 300 mL | C(C)(=O)OCC | C4H8O2
product | (R)-(−)-methanesulfonic acid 3-[3-(isopropylcarbamoylmethyl)-2-(3-methoxyphenyl)-4-oxo-3,4-dihydroquinazolin-6-yloxy]-2-methylpropyl ester | C(C)(C)NC(=O)CN1C(=NC2=CC=C(C=C2C1=O)OC[C@H](COS(=O)(=O)C)C)C1=CC(=CC=C1)OC | C25H31N3O7S
